US06881736B1
a) 4-Bromo-1-(triisopropylsilyloxy)benzene
To a solution of 4-bromophenol (17.3 g, 100 mmole) in dry DMF (100 mL) at RT was added imidazole (13.62 g, 200 mmole), followed by triisopropylsilyl chloride (22.5 mL, 105 mmole). After 4 hr the mixture was diluted with H2O (50 mL) and extracted with hexanes (3×75 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound (32.23 g, 100%) as a clear oil which was used without purification: 1H NMR (300 MHz, CDCl3) δ 7.29 (d, J=6 Hz, 2 H), 6.71 (d, J=6 Hz, 2 H), 1.22 (m, 3 H), 1.09 (m, 18 H).

reactant | 4-bromophenol | 100 mmole, 17.3 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | imidazole | 200 mmole, 13.62 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 105 mmole, 22.5 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 4-Bromo-1-(triisopropylsilyloxy)benzene | 32.23 g, 100% | BrC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C15H25BrOSi
